US07855215B2
Step 72.2: 6-(2,3-Dihydro-1H-indol-5-yloxy)-pyrimidine-4carboxylic acid ethyl ester
A solution of 6.21 g (21.9 mMol) 6-(1H-indol-5-yloxy)-pyrimidine-4-carboxylic acid ethyl ester in 70 ml acetic acid is cooled in an ice bath. Then 6.88 g (109 mMol) NaBH3CN are added and stirring is continued for 1 h. After addition of 17 ml water, the mixture is concentrated in vacuo. The resulting brown oil is re-dissolved in EtOAc and a 1:1 mixture of water and sat. NaHCO3, the aqueous layer separeted off and extracted twice with EtOAc. The organic phases are washed with water and brine, dried (Na2SO4) and concentrated to the crude title compound: MS: [M+1]+=286.

reactant | 6-(1H-indol-5-yloxy)-pyrimidine-4-carboxylic acid ethyl ester | 21.9 mMol, 6.21 g | C(C)OC(=O)C1=NC=NC(=C1)OC=1C=C2C=CNC2=CC1 | C15H13N3O3
reactant | NaBH3CN | 109 mMol, 6.88 g | [BH3-]C#N.[Na+]
reactant | water | 17 ml | O | H2O
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 6-(2,3-Dihydro-1H-indol-5-yloxy)-pyrimidine-4carboxylic acid ethyl ester | C(C)OC(=O)C1=NC=NC(=C1)OC=1C=C2CCNC2=CC1 | C15H15N3O3
